US07514583B2
Bis(3,4-methylenedioxy)benzoin (Compound 1B; DC-0001B)
A solution of piperonal (5 g) in ethanol (6.5 ml) was treated with a solution of potassium cyanide (0.5 g) in water (5 ml), then refluxed for 5 h. The resultant precipitate was filtered off, washed with water then crystallized from ethanol to give DC-0001B (2.24 g, 45%) as an off white crystalline solid.

reactant | piperonal | 5 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | potassium cyanide | 0.5 g | [C-]#N.[K+]
solvent | ethanol | 6.5 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | Bis(3,4-methylenedioxy)benzoin | C1OC=2C=C(C=CC2O1)C(=O)C(O)C1=CC2=C(C=C1)OCO2 | C16H12O6
